# Simple netlist with transmission line (test of nsect parameter)

isin:i1 gnd 4 idc=2m acmag=1.
res:r1 4 2 r=100
tlinpy4:tline1 2 gnd 3 gnd nsect=50 tand=1e-3 z0mag=50
res:r2 3 gnd r=100
svdiode:d1 3 gnd cj0=1e-12

isin:i10 gnd 40 idc=2m acmag=1.
res:r10 40 20 r=100
tlinpy4:tline10 20 gnd 30 gnd tand=1e-3 z0mag=50
res:r20 30 gnd r=100
svdiode:d10 30 gnd cj0=1e-12

#.analysis op elemop=True shell=1
.analysis ac start=1GHz stop=5GHz num=200 log=False shell=0

.plot ac_mag 2 20
.plot ac_mag 3 30

.end


